US07795267B2
3-[(Tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-7(1H)-yl)carbonyl]benzaldehyde
3-Formylbenzoic acid (0.10 g, 0.67 mmol) was dissolved in toluene (7 mL). Thionyl chloride (0.80 g, 6.7 mmol) was added thereto, and the mixture was heated under reflux for 1 hour. The reaction solution was concentrated, and the residue was dissolved in tetrahydrofuran (5 mL). The resulting solution was added dropwise to a solution of triethylamine (69 mg, 0.68 mmol) and hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one (0.20 g, 0.68 mmol) in tetrahydrofuran (3 mL) at 0° C., and the mixture was stirred at room temperature for 1 hour. The reaction solution was diluted with water and then extracted with ethyl acetate. The organic layer was sequentially washed with 1 N hydrochloric acid, an aqueous saturated sodium hydrogen carbonate solution, water and saturated brine, and dried over magnesium sulfate. The solid was filtered off, and the filtrate was concentrated. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=1:1 to ethyl acetate), and the fractions were collected and concentrated. The residue was collected by filtration and washed with diisopropyl ether to obtain the title compound (0.19 g, yield 66%).

reactant | 3-Formylbenzoic acid | 0.67 mmol, 0.10 g | C(=O)C=1C=C(C(=O)O)C=CC1 | C8H6O3
reactant | Thionyl chloride | 6.7 mmol, 0.80 g | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 0.68 mmol, 69 mg | C(C)N(CC)CC | C6H15N
reactant | hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.68 mmol, 0.20 g | C1(=CC=CC=C1)C1(OC(N2C1CNCC2)=O)C2=CC=CC=C2 | C18H18N2O2
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-[(Tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-7(1H)-yl)carbonyl]benzaldehyde | 0.19 g, yield 66% | O=C1OC(C2N1CCN(C2)C(=O)C=2C=C(C=O)C=CC2)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H22N2O4
